US06479487B1
1-(3-Tetrahydrofuranylmethyl)-4-piperidone oxime is prepared from 1-(3-tetrahydrofuranylmethyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(3-tetrahydrofuranylmethyl)-4-piperidone | O1CC(CC1)CN1CCC(CC1)=O | C10H17NO2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(3-Tetrahydrofuranylmethyl)-4-piperidone oxime | O1CC(CC1)CN1CCC(CC1)=NO | C10H18N2O2
